US07163940B2
To a solution of N-allyl-3-[2-(butylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-7-amine (80 mg, 0.19 mmol) in ethanol (5 mL) was added palladium on carbon (10%, 8 mg). The mixture was stirred overnight at room temperature under a balloon filled with hydrogen. The reaction was filtered through a pad of Celite and concentrated to give 3-[2-(butylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)-N-propylpyrazolo[1,5-α]pyridin-7-amine (79 mg, 99%) as a gold foam. 1H NMR (CDCl3): δ 8.03 (d, 1H), 7.74 (d, 1H), 7.69 (m, 2H), 7.33 (t, 1H), 7.15 (t, 2H), 6.30 (d, 1H), 6.08–6.01 (m, 2H), 5.08 (broad, 1H), 3.47 (q, 2H), 3.37 (q, 2H), 1.87–1.41 (m, 6H), 1.08 (t, 3H), 0.99 (t, 3H); 19F NMR (CDCl3) δ −113.44; MS m/z 419 (M+1).

reactant | N-allyl-3-[2-(butylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-7-amine | 0.19 mmol, 80 mg | C(C=C)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NCCCC)C2=CC=C(C=C2)F | C24H25FN6
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 8 mg | [Pd] | Pd
product | 3-[2-(butylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)-N-propylpyrazolo[1,5-α]pyridin-7-amine | 79 mg, 99% | C(CCC)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2NCCC)C2=CC=C(C=C2)F | C24H27FN6
